US06521666B1
To a solution of N-(2,6-dichlorobenzoyl)-3-acetyl-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester (0.12 g) in EtOH (5 mL) were added NH2OMe HCl salt (24 mg) and DIEA (60 mg). The mixture was refluxed for 2 h and evaporated. The residue was diluted with EtOAc, washed with 1N HCl, dried, and evaporated. The residue was purified by preparative TLC (silica gel; eluent: EtOAc/hexane 2:1)to give 0.058 g of N-(2,6-dichlorobenzoyl)-3-[1-(methoxyimino)ethyl]-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester. ESMS: m/z 534 (M−H)−.

reactant | N-(2,6-dichlorobenzoyl)-3-acetyl-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester | 0.12 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1)OC)C(C)=O)=O | C27H25Cl2NO5
reactant | NH2OMe HCl | 24 mg | NOC.Cl
reactant | DIEA | 60 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 5 mL | CCO | C2H6O
product | N-(2,6-dichlorobenzoyl)-3-[1-(methoxyimino)ethyl]-4-(2-methoxyphenyl)-L-phenylalanine ethyl ester | 0.058 g | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC(=C(C=C1)C1=C(C=CC=C1)OC)C(C)=NOC)=O | C28H28Cl2N2O5
